Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Pain, AMS
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ woman with past medical history of hypertension and
dementia (baseline pleasant, AAO x1) transferred from ___ with altered mental status and foci of gas in the
bilateral cavernous sinus. Unable to obtain history from the
patient, or reach family. According to reports, while at home
patient fell backwards in chair and had jerking motion described
by the daughter. According to reports there is no frank head
trauma or loss of consciousness, nausea or vomiting, numbness or
weakness. Possible history of headache 2 days ago. At ___, patient had UA and chest x-ray which were negative for
signs of infection. Trop was negative (at 0850) Patient had a CT
scan of the head and neck which revealed bilateral foci of air 
in
the cavernous sinus prompting transfer for neurology evaluation
 
Past Medical History:
Dementia
Hypertension
 
Social History:
___
Family History:
Noncontributory 
 
Physical Exam:
Admission Exam:

General: AO x 1
HEENT: Sclerae anicteric, MMM, oropharynx clear
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Lungs: Clear to auscultation bilaterally 
Abdomen: Soft, non-tender, non-distended 
Ext: Warm, well perfused, no ___ edema
Neuro: No apparent focal deficits. Unable to cooperate with 
exam.
Moving all four extremities spontaneously.

Discharge Exam:

General: AO to person and place.
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, 
Lungs: Clear to auscultation bilaterally 
Abdomen: Soft, non-tender, non-distended 
Ext: Warm, well perfused, no ___ edema
Neuro: Cn II-XI intact. ___ strength in upper and lower
extremity. 

 
Pertinent Results:
___ 05:47AM BLOOD WBC-6.0 RBC-4.09 Hgb-11.4 Hct-36.0 MCV-88 
MCH-27.9 MCHC-31.7* RDW-15.5 RDWSD-50.1* Plt ___
___ 05:47AM BLOOD Glucose-93 UreaN-16 Creat-0.9 Na-146 
K-4.1 Cl-106 HCO3-26 AnGap-14
___ 03:28PM BLOOD ALT-8 AST-16 AlkPhos-125* TotBili-0.3
___ 05:47AM BLOOD Calcium-9.5 Phos-3.5 Mg-2.0
___ 03:28PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

___ 05:47AM BLOOD SED RATE-Test      
 
Brief Hospital Course:
___ woman with past medical history of hypertension and 
dementia (baseline pleasant, AAO x1) transferred from ___ 
___ with altered mental status and foci of gas in the 
bilateral cavernous sinus as well as pain in the left side of 
her face due to trigeminal neuralgia. 

ACUTE ISSUES:
=============

#Trigeminal neuroalgia: 
Patient with admission to ___ for shooting jaw pain in 
___. She follows with neurologist ___. MD at 
___ and has started gabapentin QHS. She continued to have 
episodic shooting pain in the left side of her face and left 
upper jaw. This is due to her trigeminal neuralgia. Her 
gabapentin was increased from 100mg QHs to 100mg TID. She was 
seen by neurology who recommend continued outpatient workup. in 
addition, neurology recommended ESR for evaluation of possible, 
(though unlikely) temporal arteritis without temporal artery 
involvement as etiology of jaw pain. ESR was pending at time of 
discharge. 

#Dementia
#?Altered mental status: 
Patient with underlining dementia. She was AAO to person and 
place. In talking to her caretaker ___ this is at her 
baseline. I spoke to caretaker ___ ___ who 
reports that patient was in her otherwise state of health but 
had shooting pain in her jaw. She was given some tramadol that 
was prescribed to her for her hip surgery which made her very 
sleepy. This is likely the cause of her AMS as her labs are 
normal and she was back to her baseline according to her 
caretaker. 

#Air in the cavernous Sinus:
Patient transferred from ___ to ___ given incidental CT 
finding of air in cavernous sinus. The most likely etiology of 
this is iatrogenic from IV placement, trauma or cranio facial 
infection. 
Patient has no evidence of trauma on CT of head and spine to 
suggest this is the etiology of air in the cavernous sinus. The 
patient had no leukocytosis, fever or evidence of infection of 
her mouth teeth or other areas of face to suggest infection. 
This incidental finding of air in cavernous sinus is most likely 
from IV placement. There is no suggested treatment for follow-up 
for this.

Chronic Issues:
===============
#HTN: Continue home lisinopril 5
#GERD: Continue home ranitidine

Transitional Issues:
====================
Continue to work with outpatient neurologist to treat trigeminal 
neuralgia. 
Please follow up ESR sent at ___ at ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Gabapentin 100 mg PO QHS 
2. Memantine 5 mg PO QAM 
3. Memantine 10 mg PO QPM 
4. Lisinopril 5 mg PO DAILY 
5. Ranitidine 150 mg PO QHS 

 
Discharge Medications:
1.  Gabapentin 100 mg PO TID 
RX *gabapentin 100 mg 1 capsule(s) by mouth three times a day 
Disp #*30 Capsule Refills:*1 
2.  Lisinopril 5 mg PO DAILY  
3.  Memantine 5 mg PO QAM  
4.  Memantine 10 mg PO QPM  
5.  Ranitidine 150 mg PO QHS  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Left side face Trigeminal Neuralgia 
Incidental air in cavernous sinus. 
Dementia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,  
It was a pleasure caring for you at ___ 
___.

WHY WAS I IN THE HOSPITAL?  
- Because you have facial pain

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- This face pain is from a nerve disorder called trigeminal 
neuralgia. 
- Trigeminal Neuralgia causes sharp pain on the left side of 
your face. 
- The best medications for this are gabapentin and Tylenol
- Please avoid tramadol or other opiates. 
- We increased your gabapentin from 100QHS to 100mg TID. 
- You should make an appointment with your neurologist for the 
week after discharge to work on increasing medications to help 
control your trigeminal neuralgia. 
 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
- Continue to take all your medicines and keep your 
appointments.

We wish you the best!

Sincerely,  
Your ___ Team 
 
Followup Instructions:
___